US07923456B2
Step 2: 6-Chloro-2-(2-fluoro-4-trimethylsilanyl-phenylamino)-nicotinic acid methyl ester
To a suspension of 6-chloro-2-(2-fluoro-4-trimethylsilanyl-phenylamino)-nicotinic acid (33.7 g, 99.5 mmol) in dichloromethane (500 mL) at 0° C. was added DIPEA (17.1 mL, 99.5 mmol). The reaction mixture was stirred for 10 minutes, then DMF (2 mL) and oxalyl chloride (8.7 mL, 99.5 mmol) were added dropwise (CAUTION: EFFERVESCENCE). The reaction mixture was stirred at room temperature for 2 hours and then added dropwise to a solution of DIPEA (17.1 mL, 99.5 mmol) in MeOH (500 mL) at 0° C. over a 45 minutes period. The reaction mixture was stirred at room temperature for 18 hours before being concentrated in vacuo. The resultant residue was dissolved in ethyl acetate and washed with a saturated aqueous solution of sodium hydrogen carbonate, followed by water, then brine, dried (Na2SO4), filtered and evaporated in vacuo to afford the title compound as a brown foam which was used without purification into the next step (36.4 g). LCMS (method B) RT=5.35 min, M+H+=353.

reactant | 6-chloro-2-(2-fluoro-4-trimethylsilanyl-phenylamino)-nicotinic acid | 99.5 mmol, 33.7 g | ClC1=NC(=C(C(=O)O)C=C1)NC1=C(C=C(C=C1)[Si](C)(C)C)F | C15H16ClFN2O2Si
reactant | DIPEA | 99.5 mmol, 17.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 99.5 mmol, 8.7 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DIPEA | 99.5 mmol, 17.1 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
solvent | MeOH | 500 mL | CO | CH4O
product | 6-Chloro-2-(2-fluoro-4-trimethylsilanyl-phenylamino)-nicotinic acid methyl ester | COC(C1=C(N=C(C=C1)Cl)NC1=C(C=C(C=C1)[Si](C)(C)C)F)=O | C16H18ClFN2O2Si
